US08217069B2
5-Chloro-2-(2,3-difluoro-6-methoxybenzyloxy)anisole
A mixture of 2,3-difluoro-6-methoxybenzyl chloride (7.65 g), 4-chloro-2-methoxyphenol (6.34 g), potassium carbonate (8.29 g) and sodium iodide (1.2 g) in N,N-dimethylformamide (20 mL) was stirred at 80° C. for 2 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with 1 mol/L aqueous sodium hydroxide solution, water and brine successively, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residual solids were suspended in a mixed solvent (n-hexane/diethyl ether=5/1), and collected by filtration. The collected solids were washed with the same solvent, and dried under reduced pressure to give the title compound (8.6 g).

reactant | 2,3-difluoro-6-methoxybenzyl chloride | 7.65 g | FC1=C(CCl)C(=CC=C1F)OC | C8H7ClF2O
reactant | 4-chloro-2-methoxyphenol | 6.34 g | ClC1=CC(=C(C=C1)O)OC | C7H7ClO2
reactant | potassium carbonate | 8.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.2 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Chloro-2-(2,3-difluoro-6-methoxybenzyloxy)anisole | 8.6 g | ClC=1C=CC(=C(C1)OC)OCC1=C(C(=CC=C1OC)F)F | C15H13ClF2O3
